US05101048
Preparation of 3-cyanophenyl 2,3,4-tri-O-acetyl-1,5-dithio-β-D-xylopyranoside (Example 5a)
If the procedure described in Preparation I is followed starting from 9.3 g (67.10-3 mol) of 3-mercaptobenzonitrile, 18 g (73.10-3 mol) of mercuric cyanide, Hg(CN)2, and 26.14 g (73.10-3 mol) of 2,3,4-tri-O-acetyl-5-thio-α-D-xylopyranosyl bromide, 8.55 g of the expected product are obtained.

reactant | 3-mercaptobenzonitrile | 67.10-3 mol, 9.3 g | SC=1C=C(C#N)C=CC1 | C7H5NS
reactant | Hg(CN)2 | [Hg](C#N)C#N
reactant | 2,3,4-tri-O-acetyl-5-thio-α-D-xylopyranosyl bromide | 73.10-3 mol, 26.14 g | C(C)(=O)O[C@H]1[C@H](SC[C@H]([C@@H]1OC(C)=O)OC(C)=O)Br | C11H15BrO6S
product | 3-cyanophenyl 2,3,4-tri-O-acetyl-1,5-dithio-β-D-xylopyranoside | 8.55 g | C(C)(=O)O[C@H]1[C@H](SC2=CC(=CC=C2)C#N)SC[C@H]([C@@H]1OC(C)=O)OC(C)=O | C18H19NO6S2
